US06911462B2
Bis-(2,2,3,3-tetramethylcyclopropane) carbonyl benzimidazole was synthesized as follows: oxalyl chloride (1.07 ml, 2 M in CH2Cl2) was added to 2,2,3,3-tetramethylcyclopropane carboxylic acid (0.305 g, 2.14 mmole) followed by one drop DMF. The mixture was allowed to react at RT for 1 hour. To the above solution was added 2-(4-aminophenyl)-6-amino benzimidazole (0.200 g, 0.89 mmole) in pyridine (2 ml). The reaction was heated to 60° C. overnight. The reaction was cooled and the precipitate filtered and washed with NaHCO3 and hexanes. The resulting solid was purified by preparative HPLC to yield a solid that was >99% pure.

reactant | oxalyl chloride | 2 M, 1.07 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,2,3,3-tetramethylcyclopropane carboxylic acid | 2.14 mmole, 0.305 g | CC1(C(C1(C)C)C(=O)O)C | C8H14O2
reactant | 2-(4-aminophenyl)-6-amino benzimidazole | 0.89 mmole, 0.200 g | NC1=CC=C(C=C1)C=1NC2=C(N1)C=C(C=C2)N | C13H12N4
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | Bis-(2,2,3,3-tetramethylcyclopropane) carbonyl benzimidazole | C(=O)=C1N=C2C(=N1)C=CC=C2.CC2(CC2(C)C)C.CC2(CC2(C)C)C | InChI=1S/C8H4N2O.2C7H14/c11-5-8-9-6-3-1-2-4-7(6)10-8;2*1-6(2)5-7(6,3)4/h1-4H;2*5H2,1-4H3
